Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
dysuria, painful bowel movements
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with history of CAD s/p CABG, a. fib on
Coumadin, PPM, who presents with 2 days of dysuria and painful
bowel movements. Patient states he has severe pain in the rectum
after having a bowel movement. He also reports for the past 2
days he has had burning with urination. He denies fevers,
abdominal pain, vomiting, flank pain. Denies hematuria, dark
stool or blood in the stools. He has never had these symptoms
before. Patient also states he feels generally weak, has been
having more difficulty walking around at home.

In the ED, initial VS were 97.7 64 171/71 16 95% RA.
Lab notable for H/H of 10.7/31.6, BMP with Na 125, BUN/Cr of
___.
ED rectal exam with no visible hemorrhoids, but reported pain in
the penis with rectal exam.  Normal testicular exam.
CT A/P showed marked urinary bladder dilation and moderate to
large colonic stool load.
___ showed no evidence of DVT.
Due to marked bladder distention, Foley catheter was placed.
He had presented here recently with a fall at home.  Sodium at
that time was 127, today 125.  Given worsening hyponatremia, he
was admitted to medicine for  hyponatremia and urinary 
retention.
 
Upon arrival to the floor, the patient reports that he only 
notes
his medical history and I really should call his PCP.  His
outpatient cardiology records are available for my review.  It
appears that recently, his furosemide dose has been increased
from 40 mg daily to 80 mg daily in the setting of left greater
than right lower extremity swelling.  Recent TTE reviewed below. 

Pharmacy fill records indicate that the patient recently started
doxycycline, which the patient reports was started for redness 
of
his left lower leg.

When asked his reason for coming to the hospital, the patient
reports that he had trouble "passing water "and rectal pain.  He
states he has never struggled with urinary retention before,
although does have a urologist, and takes 2 medications for BPH. 

The rectal week pain began the day of admission, which he
describes as a sharp pain on the inside.  He states that the 
pain
was constant, however improved with placement of the Foley
catheter.  Then, when he was moved to ___, the rectal
pain recurred.  He reports that he has been constipated, but
states that he had a bowel movement on the day prior to
admission.  He denies hard stools or bloody bowel movements.  He
denies abdominal pain, nausea, vomiting.  Reports has had a 
prior
colonoscopy, but he no longer gets colonoscopies due to his age. 

Otherwise denies fevers, chills, chest pain, shortness of 
breath.
He reports some dysuria which began today, which he describes as
a burning with urination and inability to void.  Of note, the
patient's face is notably red, which he reports his wife reports
intermittently to him.  He is unsure if this is associated with
his history of SVC syndrome or if he still has a history of SVC
syndrome. He endorses swelling of his left leg/knee, but no pain
in his left knee. No prior leg surgeries. 

 
Past Medical History:
- PostCABG Afib
- Anemia
- Arthritis
- BPH
- CAD- ___ demonstrated severe left main and right
coronary disease with moderately impaired regional left
ventricular dysfunction; CABG x4 degenerative ___ 
including
LIMA to LAD diagonal vein graft to right coronary artery vein
graft to the LAD and vein graft to circumflex OM 2
- HLD
- HTN
- Irritable bowel syndrome
- Obstructive sleep apnea
- complete heart block s/p pacemaker
- Peripheral edema
- Superior vena cava syndrome on Coumadin
- PET scan low grade adenocarcinoma of the lung; followed by
radiation therapy by Dr. ___ at ___
- Lumbar stenosis 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
GENERAL: Alert and in no apparent distress. Facial features
appear to be edematous
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry
CV: Heart regular, + systolic murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: moves all extremities, strength grossly full and symmetric
bilaterally in all limbs
SKIN: + erythema of the ___, redness is receding from marked 
line, 1+ edema on the redness
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 10:20PM   NEUTS-69.4 LYMPHS-13.4* MONOS-14.8* EOS-1.5 
BASOS-0.4 IM ___ AbsNeut-5.92 AbsLymp-1.14* AbsMono-1.26* 
AbsEos-0.13 AbsBaso-0.03
___ 10:20PM   WBC-8.5 RBC-3.40* HGB-10.7* HCT-31.6* MCV-93 
MCH-31.5 MCHC-33.9 RDW-13.3 RDWSD-45.3
___ 10:20PM   GLUCOSE-99 UREA N-24* CREAT-0.9 SODIUM-125* 
POTASSIUM-4.4 CHLORIDE-87* TOTAL CO2-27 ANION GAP-11

___ 07:02AM BLOOD WBC-7.0 RBC-3.14* Hgb-9.7* Hct-29.3* 
MCV-93 MCH-30.9 MCHC-33.1 RDW-13.3 RDWSD-45.4 Plt ___
___ 07:02AM BLOOD Glucose-87 UreaN-15 Creat-0.6 Na-129* 
K-4.5 Cl-94* HCO3-26 AnGap-9*
___:02AM BLOOD TotProt-5.3* Albumin-3.1* Globuln-2.2 
Mg-1.8 Cholest-62
___ 07:02AM BLOOD Triglyc-53 HDL-35* CHOL/HD-1.8 LDLcalc-16
___ 07:02AM BLOOD FreeKap-21.7* ___ Fr K/L-1.7*

___
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.  Mild
subcutaneous edema is seen in the left calf.

CT abd/pelvis
IMPRESSION:
1. Marked urinary bladder dilation.  Foley catheterization is 
recommended.
2. Otherwise, no other acute abdominopelvic process.
3. Moderate to large colonic stool load.
 
 
Brief Hospital Course:
___ male with history of CAD s/p CABG, a. fib on
Coumadin, PPM, who presents with 2 days of dysuria and painful
bowel movements. He was found to have urinary retention, 
constipation, acute on chronic hyponatremia, and ___ cellulitis. 
He was started on IV cefazolin, and his cellulitis improved. 
Foley was placed, and he was unable to pass voiding trial. 
Decision was made to attempt voiding trial outpatient and leave 
foley in. He responded well to aggressive bowel regimen. His 
hyponatremia is most likely worsened due to back pain from his 
recent fall. With standing tylenol regimen his pain improved. 
His discharge Na is 129 which is steadily increasing since 
admission. We decreased his lasix to 40mg as his RLE did not 
have any edema, and the ___ edema is likely from cellulitis. He 
will be discharged home with 5d of cefazolin and a bowel 
regimen. He will follow up with our urology department for a 
voiding trial, and follow with PCP for chronic hyponatremia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Warfarin 2.5 mg PO 5X/WEEK (___) 
4. Warfarin 3.25 mg PO 2X/WEEK (MO,TH) 
5. Aspirin 81 mg PO DAILY 
6. alfuzosin 10 mg oral DAILY 
7. Finasteride 5 mg PO DAILY 
8. Furosemide 80 mg PO DAILY 
9. Doxycycline Hyclate 100 mg PO Q12H 
10. Triamcinolone Acetonide 0.025% Ointment 1 Appl TP TID 
11. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
12. Atorvastatin 40 mg PO QPM 
13. Pregabalin 50 mg PO TID 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*20 Capsule Refills:*0 
2.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 g by mouth daily 
Refills:*0 
5.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 2 tabs by mouth daily Disp #*60 
Tablet Refills:*0 
6.  alfuzosin 10 mg oral DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
10.  Finasteride 5 mg PO DAILY  
11.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
12.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
13.  Metoprolol Succinate XL 100 mg PO DAILY  
14.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
15.  Pregabalin 50 mg PO TID  
16.  Triamcinolone Acetonide 0.025% Ointment 1 Appl TP TID  
17.  Warfarin 3.25 mg PO 2X/WEEK (MO,TH)  
18.  Warfarin 2.5 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hyponatremia
___ cellulitis
urinary retention
constipation

 
Discharge Condition:
fair
A/Ox3
ambulatory with minimal assistance

 
Discharge Instructions:
Mr ___,
You were admitted to the hospital for Hyponatremia, cellulitis 
of the leg, urinary retention, and constipation. We started you 
on IV antibiotics and you did well. Your sodium level is now ___ 
which will improve as your pain improves. You will need to keep 
the foley in place until outpatient urology follow up. Take your 
stool softeners to control the constipation. Follow up with your 
PCP within the next 2 weeks to ensure symptom resolution.
It was a pleasure caring for you here in ___!
 
Followup Instructions:
___